Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel insecure"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ Behavioral Health Services ___, per 
call in
___ male from ___ who lives off campus, brought to ___
Student Health Services by roommate. Rms report over past few
days T has displayed an increase in manic behavior, confusion,
tangential statements, difficulty speaking in complete 
sentences,
increased rate of speech, and lack of sleep. Denies SI/HI.
Student is not known to ___ prior to presentation today."   

Patient is a very poor historian

HISTORY OF PRESENT ILLNESS: Patient is a ___ year old ___, ___ student, who presents from student health services after
roommate raised concern regarding patient's behavior. Per call 
in
information, patient has not been sleeping, he has stopped
speaking in coherent sentences and makes no sense. Psychiatry is
asked to assess patient for safety and treatment planning. 
On interview, patient is found in his emergency room bed. She is
staring ahead of him. He attempts to answer questions but 
appears
to be internally preoccupied, perhaps thought blocking. He 
denies
hearing voices or seeing anything unusual. Patient gives odd non
sequitur answers to questions that are related to theme of
homosexuality. For example patient asks if he can ask me a
question and then asks if he is gay or bisexual. He later asks
for advil and when I ask if he is having pain, he says that
"being gay hurts". Patient reports that he recently realized 
that
he is gay but had to put himself into a special state to 
discover
this. He describes this state as 'not sleeping' and 'doing
something stupid'. 

 
Past Medical History:
None

Past psychiatric history: none
 
Social History:
___
Family History:
No psychiatric history
 
Physical Exam:
ADMISSION EXAM:
*VS:  T 98.2 HR 82 BP 110/58 RR 19 O2 sat 100% RA 
Neurological:  
 *station and gait: in bed
 *tone and strength: moves all 4 extremities against gravity
  abnormal movements: none
 
MSE: Young man, fair grooming, staring ahead of him. Calm,
attempts to cooperative with exam. Appears to be internally
preoccupied and thought blocking but denies any hallucinatory
experiences. Reports ok mood affect is blunt. Thought process is
recursive to themes of homosexuality and appears to be thought
blocking. Denies SI/HI/AH/VH, reports feeling unsafe but cannot
elaborate. Insight and judgment very impaired. Awake, alert.
Oriented to himself, 'hospital' but now which one. Cannot name
date or month, identifies season as winter from multiple choice.
Unable to participate in memory testing due to severe impairment
in attention. Comprehends spoken ___. 

================================
___:
DISCHARGE EXAM:
Vitals: 98.1; 125/77; 103; 18; 97% on RA.

MSE: ___ yo alert, Asian thin man, NAD, no facial asymmetry,
unremarkable gait, no involuntary movements, no tremors.
Friendly, cooperative with the interview. He was definitely more 
organized.
Appearance: Casually dressed, well groomed. He was found in the
Oasis room, reading a book.
Motor activity: good eye contact, no sx's of PMR/PMA.
Speech: spontaneous, fluent, normal rate and prosody. Accented.
Clear voice
TP: He is able to have linear conversation. He was focused on 
discussion about his treatment plan. He asked questions about 
his medicines, scripts. He expressed preference to take nicotine 
patch (instead of Nicorette gum). Of note, he didn't make any 
delusional statements.
Mood: "I am OK...ready for the discharge"
Affect: friendly, reactive, exchanges genuine smile. He made 
some joking remarks. E.g., when writer asked pt how to say "how 
are you" in ___. Mr. ___ expressed interest. After giving 
writer opportunity to repeat phrase couple times, he said: "I am 
going to check later".

Sx's of psychosis: No idiosyncratic statements about his 
sexuality were expressed. Denied A/V/H.
Anxiety sx's: reported increased level of anxiety before being 
discharged. He is positive about d/c plan.
Safety assessment: clearly denies S/H/I's. He talked about 
positive plans for future.
Insight and judgment is improving.
Pt was able to problem solve situation with copay for his meds: 
his meds were filled at the ___ pharmacy. ___ 
required pt to pay copay. Mr. ___ called pharmacy and paid for 
scripts with his credit card.

 
Pertinent Results:
LABS:
___ 04:20PM BLOOD WBC-9.7 RBC-5.31 Hgb-16.2 Hct-47.4 MCV-89 
MCH-30.5 MCHC-34.2 RDW-12.0 RDWSD-39.3 Plt ___
___ 04:20PM BLOOD Neuts-85.2* Lymphs-10.4* Monos-3.6* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-8.23* AbsLymp-1.00* 
AbsMono-0.35 AbsEos-0.00* AbsBaso-0.03
___ 04:20PM BLOOD Glucose-79 UreaN-17 Creat-0.9 Na-139 
K-4.8 Cl-97 HCO3-20* AnGap-22*
___ 06:25AM BLOOD %HbA1c-5.0 eAG-97
___ 06:25AM BLOOD Triglyc-61 HDL-69 CHOL/HD-2.1 LDLcalc-64
___ 06:25AM BLOOD TSH-2.6
___ 04:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ urine tox + cocaine

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused/was unable to sign a 
conditional voluntary agreement and was admitted on a ___, which expired on ___.  At that time the patient was 
deemed to be at risk of harm to self/others due to ongoing 
psychosis, disorganization, so a Section ___ was filed with 
the ___ court. Patient was placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#) Psychosis NOS versus substance induced psychosis
Mr. ___ is a ___ old student at ___ with no 
past psychiatric history who was admitted to the psychiatry unit 
on ___ for disorganization, incoherent thoughts and concern for 
psychosis. ___ exam was notable for loose association of 
ideas, disorganization and internal preoccupation. He was 
started on Risperidone which was uptitrated to 1mg in the 
morning and 5mg at night, with improvement in symptoms. He 
initially was unable to participate in group therapy due to 
disorganization and shouting inappropriately about provocative 
or sexual statements. He initially was unable to engage in 
discussion about his treatment and his treatment plans. 
Considering severe disorganization affecting his self care, 
section ___ was pursued as above. 

Etiology of his symptoms were thought to be secondary to a 
primary psychotic disorder with likely worsening of psychosis in 
the setting of marijuana and
cocaine. He was noted to be intermittently suspicious and 
occasionally refused his medications. As treatment progressed, 
he was able to engage in meaningful discussion of his treatment. 
He was eventually advanced in his privileges and started to 
attend groups. He was noticed to be more organized and 
appropriate in group discussions.

3. SUBSTANCE USE DISORDERS:
#) Marijuana use disorder: Cessation counseling offered.

#) Cocaine use disorder: Cessation counseling offered.

#) Nicotine use disorder: Patient was prescribed nicotine gum 
prn.
As treatment progressed, Mr. ___ consistently expressed his 
motivation to continue refrain from illicit drugs, cigarettes 
and alcohol. He said: "They are not good for me". He also talked 
about his using drugs as a way to have friends. As his condition 
improved, he consistently said that he will need to remove from 
his current friends if they jeopardize his sobriety.

4. MEDICAL: n/a

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. He was 
initially unable to participate due to the level of his 
disorganization as above. As his condition improved, he started 
to participate in groups and found them beneficial. In the 
milieu, Mr. ___ remained friendly, compliant with assessments. He 
appropriately interacted with staff and other clients on the 
unit at the end of his inpatient treatment.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
psychiatrist - pt has no psychiatrist
Therapist: no therapist
Family - father
___ from ___ - Case manager, ___

The team had a family meeting with patient's father with the 
help of a ___ interpreter on ___. It was explained that 
___ was a danger to himself due to ongoing psychosis and was 
being kept in the unit against his will. His father felt he was 
about "70% normal" and insisted on discharge that day and taking 
him to ___ to a hospital. He was wary of taking the 
medications that were prescribed to him and recommended that 
___ not take them. He spoke with his family about the 
medication later (Risperidone) and ultimately felt it was okay 
for ___ to take them.
After talking to a relative (pt's aunt is a doctor in ___, 
family was more open to the idea of pt receiving treatment. 
Family was also looking into options of continuing treatment in 
___.
Also, pt's host-sister (Ms. ___ ___ was 
involved in treatment and treatment planning. She regularly 
visited pt on the unit. She participated in family meetings. She 
was supportive of pt's treatment and 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Risperidone, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and the 
team answered the patient's questions.  The patient appeared 
able to understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
reported history, collateral information and clinical exam. Pt 
appeared quite disorganized on initial presentation.  Their 
static factors noted at that time include sx's of psychiatric 
condtion, sx;s of anxiety/psychosis, collateral reports, history 
of substance abuse, male gender, LGBT identity.   The modifiable 
risk factors were addressed: tx of psychiatric sx's was 
initiated, mobilized pt's psycho-social supports, worked on 
issue of illicit substance use.  Finally, the patient is being 
discharged with many protective risk factors: improved mood/ 
sx's of psychosis; having psycho-social support (host family in 
the ___ and family in ___. Lack of S/H/I. Improved 
attention/concentration. Positive plans for future.   Based on 
the totality of our assessment at this time, the patient is not 
at an acutely elevated risk of self-harm nor danger to others. 
For Reference:
MODIFIABLE RISK FACTORS
**psychosis, disorganized and unpredictable behavior, medication 
noncompliance, lack of outpatient treatment, agitation, 
recklessness, social withdrawal, limited social supports, 
limited coping skills, poor reality testing, no established 
outpatient treatment, insomnia, lack of purpose, active 
substance abuse/intoxication, impulsivity, and recent 
(financial/physical/personal) loss. 

PROTECTIVE RISK FACTORS
 ***help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family and self, life satisfaction, reality 
testing ability, good coping skills, good problem-solving 
skills, ability to build good working relationship with 
providers, lack of suicidal ideation, motivation to maintain 
sobriety, no history of abuse, ability to tolerate rejection, 
and improved social supports. 

Our Prognosis of this patient is, guarded as pt still has mild 
residual sx's and is at the beginning of his treatment and 
rehabilitation.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO BID 
RX *benztropine 1 mg one tablet(s) by mouth twice daily Disp 
#*28 Tablet Refills:*0 
2.  LORazepam 1 mg PO BID PRN anxiety 
RX *lorazepam [Ativan] 1 mg one tablet by mouth twice daily PRN 
anxiety Disp #*10 Tablet Refills:*0 
3.  Nicotine Patch 7 mg TD DAILY:PRN smoking sessation 
RX *nicotine [Nicoderm CQ] 7 ___ patch once daily 
Disp #*14 Patch Refills:*0 
4.  RisperiDONE 1 mg PO DAILY 
RX *risperidone 1 mg one tablet(s) by mouth twice daily (total 
daily dose 6mg) Disp #*28 Tablet Refills:*0 
5.  RisperiDONE 5 mg PO QHS psychosis 
RX *risperidone 4 mg one tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychosis, not otherwise specified

 
Discharge Condition:
Mental Status: Clear and coherent. Still occasional 
idiosyncratic statements but definitely improved.
Level of Consciousness: Alert and interactive.
TC: Reports feeling definitely better and ready for the 
discharge.
Clearly denied suicidal ideations. Shared about plan to stay 
with his host-sister (___) for the next couple days. To attend 
appointment at the ___ and to return to ___ (possibly next 
week).
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety. Here is a website with links to 
meetings near your area:
___

 
Followup Instructions:
___